US05283165
Synthesis of 3-Methoxycarbonyl 4-methyl-1-phenyl-3-pyrrolin-2-one
A solution of 20.6 grams (82 mmol) of impure bromomethyl methyl isopropylidenemalonate and 15.2 grams (0.169 mol) of aniline in 25 mL of absolute ethanol were stirred at room temperature. Initially a homogeneous solution formed. After a mildly exothermic reaction a precipitate formed. The reaction was refluxed for 1 hour, cooled, and filtered. The collected product was washed with ethanol and water to give 10.0 grams (43 mmol, 52% yield) of crude product. An analytical sample was prepared by recrystallizing from methanol, m. p.=143°-145° C., Elemental Analysis: Calculated: C=67.5, H=5.7, N=6.1; Found: C=67.7, H=5.9, N=6.2.

reactant | bromomethyl methyl isopropylidenemalonate | 82 mmol, 20.6 grams | C(C)(C)=C(C(=O)OCBr)C(=O)OC | C8H11BrO4
reactant | aniline | 0.169 mol, 15.2 grams | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-Methoxycarbonyl 4-methyl-1-phenyl-3-pyrrolin-2-one | 43 mmol, 10.0 grams, 52% yield | COC(=O)C=1C(N(CC1C)C1=CC=CC=C1)=O | C13H13NO3
